US04054586
Our efforts in an attempt to solve the above problem led to the discovery that by using an aqueous medium such as water or a mixture of water and an organic solvent, the nitro group or 1-nitroanthraquinone is reduced while the 1-nitroanthraquinone is in the suspended state, and 1-aminoanthraquinone of better quality with lesser amounts of impurities than in the case of using an organic solvent can be obtained. According to this method, however, when the particles of 1-nitroanthraquinone have a large size, it sometimes happens that only the surfaces of the particles are hydrogenated, but their insides remain unreacted or become a reaction intermediate. The unreacted matter and the reaction intermediate adversely affect the quality and yield of 1-aminoanthraquinone as a final product. Furthermore, since 1-aminoanthraquinone is scarcely soluble in water, it must be collected together with the catalyst, and the mixture is dissolved in a solvent such as sulfuric acid to separate the catalyst. In addition, since the resulting 1-aminoanthraquinone contains a 2-amino isomer and 1,5-, 1,8-, 1,6- and 1,7-diamino isomers ascribable to a 2-nitro isomer and 1,5-, 1,8 -, 1,6- and 1,7-dinitro isomers formed as by-products in the nitration of anthraquinone, it is necessary to remove these isomers. Separation of the 1,5- and 1,8-diamino isomers is not easy, however.

reactant | 1-aminoanthraquinone | NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H9NO2
solvent | water | O | H2O
product | anthraquinone | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
